US07547680B2
3-Hydroxy-4-phenylbenzonitrile
3-Methoxy-4-phenylbenzonitrile (17.8 g) was dissolved in dichloromethane (200 mL). To the stirred mixture was added dropwise boron tribromide (14 mL) under ice-cooling, and the mixture was stirred at continuous temperature for 6 hours. To the stirred reaction mixture was added dropwise water (200 mL) under ice-cooling, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane=1/5) to give the title compound (11.0 g).

reactant | 3-Methoxy-4-phenylbenzonitrile | 17.8 g | COC=1C=C(C#N)C=CC1C1=CC=CC=C1 | C14H11NO
reactant | boron tribromide | 14 mL | B(Br)(Br)Br | BBr3
reactant | water | 200 mL | O | H2O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 3-Hydroxy-4-phenylbenzonitrile | 11.0 g | OC=1C=C(C#N)C=CC1C1=CC=CC=C1 | C13H9NO
